US04476131
dl-7-Hydroxy-6-(3-aminopropyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline
Under anhydrous conditions and a nitrogen atmosphere, to a solution of 190 mg. (5 mmole) lithium aluminum hydride in 50 ml. tetrahydrofuran at 10° C. is added dropwise a solution of 2.09 g. (5 mmole) dl-7-hydroxy-6-(2-cyanoethyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline in 25 ml. tetrahydrofuran. The mixture is stirred at room temperature for 6 hours after the addition. Ethyl acetate is added to quench the reaction, the solvent is evaporated in vacuo and the residue partitioned between water and methylene chloride. The organic extracts are dried (MgSO4) and the solvent evaporated to provide the title compound as the free base.

reactant | lithium aluminum hydride | 5 mmole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 7-hydroxy-6-(2-cyanoethyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCC#N | C27H34N2O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Hydroxy-6-(3-aminopropyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCCN | C27H38N2O2
